data/nitro/train.csv
rxn,smiles,ea
910,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])(\[H:31])[Br:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])([H:31])[Br:32],-7.34475931195317
30,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])([C:31]([H:32])([H:33])[H:34])[C:35]([H:36])([H:37])[H:38]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])([C:31]([H:32])([H:33])[H:34])[C:35]([H:36])([H:37])[H:38],-1.3880208360575723
435,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[H:14])(\[Br:15])[C:16]([H:17])([H:18])[H:19]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[H:14])([Br:15])[C:16]([H:17])([H:18])[H:19],-7.655665156170696
370,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[Cl:12])(\[Cl:13])[H:14]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Cl:12])([Cl:13])[H:14],-12.43980366088135
536,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])(\[Br:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([Br:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34],-1.3003998056723882
181,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])(\[C:25]([H:26])([H:27])[H:28])[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])([C:25]([H:26])([H:27])[H:28])[H:29],-11.634627429478176
415,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Cl:16])(\[Br:17])[C:18]([H:19])([H:20])[H:21]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Cl:16])([Br:17])[C:18]([H:19])([H:20])[H:21],-10.56060103920814
982,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([H:21])[H:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([H:21])[H:22],-7.194966525509602
303,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])(\[Cl:17])[Br:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([Cl:17])[Br:18],-5.945482210782079
988,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([H:28])[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([H:28])[H:29],-9.547946957820338
279,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([Cl:17])[Cl:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([Cl:17])[Cl:18],-3.423239255806266
771,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[Cl:14])(\[c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])[H:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Cl:14])([c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])[H:26],-10.350613778622668
858,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[Br:12])(\[H:13])[Cl:14]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Br:12])([H:13])[Cl:14],-15.064042005915953
